US04588719
5-Methoxy-1-pyrrolidinyl-3,4-dihydronaphthalene
Titanium tetrachloride (31.1 ml) in dry toluene (210 ml) is added slowly to a stirred solution of 5-methoxy-1-tetralone (100 g) and pyrrolidine (263 g) in anhydrous toluene (2 l) cooled in a methanol ice bath under N2 while maintaining a temperature of less than 7° C. When the addition is complete, the reaction mixture is allowed to stir at RT for 31/2 hrs. The reaction mixture is filtered, the solid washed with anhydrous toluene, and the filtrate evaporated in vacuo, resulting in a gold viscous liquid, which is dissolved in 1.8 l of dry tetrahydrofuran and filtered. The filtrate is used as is in the next step.

reactant | 5-methoxy-1-tetralone | 100 g | COC1=C2CCCC(C2=CC=C1)=O | C11H12O2
reactant | pyrrolidine | 263 g | N1CCCC1 | C4H9N
solvent | toluene | 210 ml | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 2 l | C1(=CC=CC=C1)C | C7H8
catalyst | Titanium tetrachloride | 31.1 ml | [Ti](Cl)(Cl)(Cl)Cl
product | 5-Methoxy-1-pyrrolidinyl-3,4-dihydronaphthalene | COC1=C2CCC=C(C2=CC=C1)N1CCCC1 | C15H19NO
